US04005118
A mixture of 19.9 grams of gamma-chloropropyltrimethoxysilane (commercially available) and 14.3 gm. of octylmethylamine is heated to 100°-120° C. for 16 hours. NMR indicated complete quaternization of the amine. To this mixture is added 0.1 mole of sodium methoxide in 50 ml. of methanol. After stirring for 6 hours the methanol is removed under vacuum and the residue is dissolved in cold hexane and filtered to yield gamma-octylmethylaminopropyltrimethoxysilane. To this product is added 0.1 mole of sodium beta-bromopropionate in 300 ml. of methanol. The mixture is warmed gently for 6 hours, then refluxed for an additional 6 hours to yield the desired quaternary ammonium salt.

reactant | gamma-chloropropyltrimethoxysilane | 19.9 grams | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
reactant | octylmethylamine | C(CCCCCCC)NC | C9H21N
reactant | sodium methoxide | 0.1 mole | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | gamma-octylmethylaminopropyltrimethoxysilane | C(CCCCCCC)C(CC[Si](OC)(OC)OC)NC | C15H35NO3Si
